US09126993B2
1-azabicyclo[2.2.2]oct-3-yl {2[3-(propan-2-yl)phenyl]propan-2-yl}carbamate
Using general procedure F, 1-azabicyclo[2.2.2]oct-3-yl {2-[3-(prop-1-en-2-yl)phenyl]propan-2-yl}carbamate (48.8 mg, 0.146 mmol) and palladium hydroxide (30 mg, 20 wt. % on carbon) gave the title compound as an off-white solid (16 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 7.24 (d, J=5.1 Hz, 3H), 7.10 (d, 1H), 5.12 (s, 1H), 4.63 (s, 1H), 3.54-2.96 (m, 1H), 2.89 (s, 1H), 2.68 (s, 5H), 2.17-1.75 (m, 2H), 1.67 (s, 6H), 1.62-1.30 (m, 2H), 1.24 (d, J=6.9 Hz, 6H), 1.15-0.85 (m, 1H) ppm. 13C NMR (100 MHz, CDCl3) δ 149.1, 128.5, 124.9, 123.1, 122.5, 55.8, 55.6, 46.6, 34.5, 25.6, 24.6, 24.3, 19.7 ppm. Purity: 94% UPLCMS (210 nm); retention time 0.89 min; (M+1) 331.1.

reactant | 1-azabicyclo[2.2.2]oct-3-yl {2-[3-(prop-1-en-2-yl)phenyl]propan-2-yl}carbamate | 0.146 mmol, 48.8 mg | C=C(C)C=1C=C(C=CC1)C(C)(C)NC(OC1CN2CCC1CC2)=O | C20H28N2O2
catalyst | palladium hydroxide | 30 mg | [OH-].[Pd+2].[OH-]
product | 1-azabicyclo[2.2.2]oct-3-yl {2[3-(propan-2-yl)phenyl]propan-2-yl}carbamate | 16 mg, 33% | CC(C)C=1C=C(C=CC1)C(C)(C)NC(OC1CN2CCC1CC2)=O | C20H30N2O2
